US04248618
Potassium carbonate (5.8 g) was added to a solution of 5-chloro-2-methylsulphonylpyrimidine (6.7 g) and 4-methoxythiophenol (5.0 g) in methyl ethyl ketone (50 ml) and the mixture was stirred and boiled under reflux for 3 hours. The solvent was evaporated under reduced pressure and the residue partitioned between chloroform and 5% sodium hydroxide aqueous solution. The chloroform extracts were dried (Mg SO4) and evaporated under reduced pressure to give 5-chloro-2-(4-methoxyphenylthio)pyrimidine (8.5 g) as a colourless solid, m.p. 75° C.

reactant | Potassium carbonate | 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-2-methylsulphonylpyrimidine | 6.7 g | ClC=1C=NC(=NC1)S(=O)(=O)C | C5H5ClN2O2S
reactant | 4-methoxythiophenol | 5.0 g | COC1=CC=C(C=C1)S | C7H8OS
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 5-chloro-2-(4-methoxyphenylthio)pyrimidine | 8.5 g | ClC=1C=NC(=NC1)SC1=CC=C(C=C1)OC | C11H9ClN2OS
